US07776847B2
Phosphorus oxychloride was added slowly to 4-chlorobenzo[d]isothiazol-3(2H)-one (2.34 g). The reaction mixture was heated at reflux overnight. After normal aqueous work-up, the product was purified by column chromatography, on silica gel, eluted with a mixture of 5% ethyl acetate in hexanes to provide 3,4-dichlorobenzo[d]isothiazole. (This method can be used to 1,2-benzisothiozal-3-ones). 1H NMR (300 MHz, DMSO-d6): 8.23-8.31 (m, 1H), 7.62 ppm (d, 2H). MW=204 confirmed by LC-MS, tr=2.38 min (Method B) MH+=205.

reactant | Phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-chlorobenzo[d]isothiazol-3(2H)-one | 2.34 g | ClC1=CC=CC2=C1C(NS2)=O | C7H4ClNOS
product | 3,4-dichlorobenzo[d]isothiazole | ClC1=NSC2=C1C(=CC=C2)Cl | C7H3Cl2NS
